US05541324
2-(N-Formylaminomethyl)benzoxazole
A mixture of 4.29 g (28.9 mmol) of 2-(aminomethyl)benzoxazole (PREPARATION 6) and 20 ml of ethyl formate is heated at 80° for 2 hr, after which the excess ethyl formate is removed under reduced pressure. The residue is chromatographed on silica gel (350 ml) eluting with methanol/dichloromethane (2/98), the appropriate fractions are pooled and concentrated to give the product, which is crystallized from dichloromethane/hexane to give the title compound, mp 98°-99°; MS (m/z) at 176; IR 1655, 1621, 1519, 1241, 750 cm-1 ; NMR (CDCl3) 4.81, 6.45, 7.36. 7.53, 7.70, 8.39 δ.

reactant | 2-(aminomethyl)benzoxazole | 28.9 mmol, 4.29 g | NCC=1OC2=C(N1)C=CC=C2 | C8H8N2O
reactant | ethyl formate | 20 ml | C(=O)OCC | C3H6O2
product | 2-(N-Formylaminomethyl)benzoxazole | C(=O)NCC=1OC2=C(N1)C=CC=C2 | C9H8N2O2
